US06468998B1
7-Norbornanecarboxylic acid and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-7-norbornanecarboxamide.

reactant | 7-Norbornanecarboxylic acid | C12CCC(CC1)C2C(=O)O | C8H12O2
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-7-norbornanecarboxamide | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(=O)C1C2CCC1CC2 | C20H28N2O
